US04804762
Preparation of N-(cyanomethyl)-2-fluoroisonicotinamide (No. 14)
2.4 g (0.056 mol) of sodium hydroxide was dissolved in 24 ml of water. 3.6 g (0.017 mol) of aminoacetonitrile sulfate was added to the solution. 30 ml of ether containing 3.0 g (0.017 mol) of 2-fluoroisonicotinoyl chloride was added dropwise to the solution while the temperature was kept below 5° C. The mixture was stirred at room temperature for 2 h to conduct a reaction. Water and ethyl acetate were added to the mixture to conduct extraction. The organic layer was washed with a saturated aqueous common salt solution and dried over anhydrous sodium sulfate. The solvent was distilled. The resulting crude crystalls were recrystallized from a solvent mixture of n-hexane and ethyl acetate to obtain 2.3 g (yield: 75.3%) of white crystal having a melting point of 124° to 125° C.

reactant | sodium hydroxide | 0.056 mol, 2.4 g | [OH-].[Na+]
reactant | aminoacetonitrile sulfate | 0.017 mol, 3.6 g | S(=O)(=O)(O)O.NCC#N
reactant | ether | 0.017 mol, 30 ml, 3.0 g | CCOCC | C4H10O
reactant | 2-fluoroisonicotinoyl chloride | FC=1C=C(C(=O)Cl)C=CN1 | C6H3ClFNO
solvent | water | 24 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(cyanomethyl)-2-fluoroisonicotinamide | 2.3 g, yield: 75.3% | C(#N)CNC(C1=CC(=NC=C1)F)=O | C8H6FN3O
